US06620811B2
To a stirred solution of 0.24 ml (4.94 mmol) ethanol in 5 ml dioxane at room temperature was added 270 mg (6.18 mmol) sodium hydride (55% dispersion in mineral oil) and the mixture heated at 50° C. for 30 min. 500 mg (1.23 mmol) 6-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide was then added and the mixture heated at 80° C. for 16 h. The reaction mixture was then cooled to room temperature and poured onto water. The mixture was extracted three times with dichloromethane, and the combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/99 methanol/dichloromethane) followed by trituration in ether afforded 270 mg (53%) 6-ethoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide as a white crystalline solid. ES-MS m/e (%): 437 (M+Na+, 26), 415 (M+H+, 100).

reactant | ethanol | 4.94 mmol, 0.24 ml | C(C)O | C2H6O
reactant | sodium hydride | 6.18 mmol, 270 mg | [H-].[Na+]
reactant | 6-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide | 1.23 mmol, 500 mg | ClC1=NC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C18H17ClN4O3S
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 6-ethoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide | 270 mg, 53% | C(C)OC1=NC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C20H22N4O4S
